US07192950B2
2-[1-(3,4-Dimethoxy-benzyl)-7,8-dimethoxy-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-N-(3-ethoxy-propyl)-2-phenyl-acetamide
prepared by reaction of [1-(3,4-dimethoxy-benzyl)-7,8-dimethoxy-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-phenyl-acetic acid with 3-ethoxypropylamine.

reactant | [1-(3,4-dimethoxy-benzyl)-7,8-dimethoxy-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-phenyl-acetic acid | COC=1C=C(CC2N(CCCC3=C2C=C(C(=C3)OC)OC)C(C(=O)O)C3=CC=CC=C3)C=CC1OC | C29H33NO6
reactant | 3-ethoxypropylamine | C(C)OCCCN | C5H13NO
product | 2-[1-(3,4-Dimethoxy-benzyl)-7,8-dimethoxy-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl]-N-(3-ethoxy-propyl)-2-phenyl-acetamide | COC=1C=C(CC2N(CCCC3=C2C=C(C(=C3)OC)OC)C(C(=O)NCCCOCC)C3=CC=CC=C3)C=CC1OC | C34H44N2O6
